US06943255B2
A mixture of 8-(ethoxymethyl)-7-(2-methylpropyl)-5-methyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine (6.5 g, 22.5 mmol), triphenylphosphine (6.5 g, 24.8 mmol), and toluene (130 mL) was stirred and heated at reflux under nitrogen for 24 hours. Additional triphenylphosphine (3.0 g, 11.4 mmol) was added to the cloudy mixture, and the reaction was continued for three days. The solvent was removed under reduced pressure, and the resulting brown oil was dissolved in methanol (100 mL). Following the addition of a 1.0 M solution of hydrochloric acid in diethyl ether (45 mL) to the methanol solution, the reaction was heated at reflux overnight. The solvents were removed under reduced pressure, and water (200 mL) was added to the resulting brown oil, forming a white precipitate that was removed by filtration. Solid sodium carbonate (6.5 g) was added to the aqueous solution, followed by extraction with dichloromethane (2×200 mL). The combined extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a brown oil, which was dissolved in 2-propanol (45 mL). A 1.0 M solution of hydrochloric acid in diethyl ether (22.5 mL) was added to the solution of crude product, and a white solid formed. After one hour the solid was isolated by filtration, washed with cold 2-propanol and diethyl ether, and dried in a vacuum oven at 90° C. for two days to yield 4.3 g of 2-(ethoxymethyl)-1-(2-methylpropyl)-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride as a white solid, m.p. 181-183° C. Analysis: Calculated for C14H22N4O.HCl: % C, 56.27; % H, 7.76; % N, 18.75. Found: % C, 56.33; % H, 7.67; % N, 18.90.

reactant | 8-(ethoxymethyl)-7-(2-methylpropyl)-5-methyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine | 22.5 mmol, 6.5 g | C(C)OCC=1N(C2=C(C=3N(C(=C2)C)N=NN3)N1)CC(C)C | C14H20N6O
reactant | triphenylphosphine | 24.8 mmol, 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
reactant | triphenylphosphine | 11.4 mmol, 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | Cl | ClH
solvent | 2-propanol | 45 mL | CC(C)O | C3H8O
solvent | diethyl ether | 22.5 mL | C(C)OCC | C4H10O
product | 2-(ethoxymethyl)-1-(2-methylpropyl)-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride | 4.3 g | Cl.C(C)OCC=1N(C2=C(C(=NC(=C2)C)N)N1)CC(C)C | InChI=1S/C14H22N4O.ClH/c1-5-19-8-12-17-13-11(18(12)7-9(2)3)6-10(4)16-14(13)15;/h6,9H,5,7-8H2,1-4H3,(H2,15,16);1H
